US09126981B2
Synthesis of N-(2,2-diethoxyethyl)-3-phenylpropan-1-amine (Compound IX-21)
According to the procedure described in the synthesis method of Compound IX-1, 2,2-diethoxyethanamine (5.82 ml, 40 mmol) was reacted with 3-phenylpropyl bromide (3.02 ml, 20 mmol) and the obtained residue was purified by Büch silica gel column chromatography (eluent: chloroform only) to obtain the title compound (1.37 g, 27%).

reactant | 2,2-diethoxyethanamine | 40 mmol, 5.82 ml | C(C)OC(CN)OCC | C6H15NO2
reactant | 3-phenylpropyl bromide | 20 mmol, 3.02 ml | C1(=CC=CC=C1)CCCBr | C9H11Br
product | N-(2,2-diethoxyethyl)-3-phenylpropan-1-amine | 1.37 g, 27% | C(C)OC(CNCCCC1=CC=CC=C1)OCC | C15H25NO2
